US07435828B2
To a solution of isopropylamine (1.31 g, 22.19 mmol) in methanol (25 mL) is added portionwise phenylisothiocyanate (3.0 g, 22.19 mmol). The solution which becomes slightly warm during the addition is stirred at rt for 4 h before pyridine (2.63 g, 33.29 mmol) and methyl bromoacetate (3.39 g, 22.19 mmol) is added. The mixture is stirred for another 16 h at rt before it is poured onto 1 N aq. HCl (100 mL) and extracted with diethyl ether (150 mL). The aq. layer is neutralised by adding sat. aq. NaHCO3 and extracted with diethyl ether (4×150 mL). The organic extracts are dried over MgSO4 and evaporated. The remaining solid is suspended in diethyl ether/heptane, filtered off, washed with additional diethyl ether/heptane and dried to give 3-phenyl-2-[(Z)-isopropylimino]-thiazolidin-4-one.

reactant | isopropylamine | 22.19 mmol, 1.31 g | C(C)(C)N | C3H9N
reactant | phenylisothiocyanate | 22.19 mmol, 3.0 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | pyridine | 33.29 mmol, 2.63 g | N1=CC=CC=C1 | C5H5N
reactant | methyl bromoacetate | 22.19 mmol, 3.39 g | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 3-phenyl-2-[(Z)-isopropylimino]-thiazolidin-4-one | C1(=CC=CC=C1)N1/C(/SCC1=O)=N/C(C)C | C12H14N2OS
